datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN(C)S(=O)(=O)c1ccc([NH2+:21][H:20])cc1.COc1c2cnn(C)c2nc[n:10]1>>CN(C)S(=O)(=O)c1ccc([NH2:21])cc1.COc1c2cnn(C)c2nc[n+:10]1[H:20] 10=20;20,21=21",
"CN(C)c1ccc(/C=C/c2n[n+:21]([H:20])nn2-c2ccccc2)cc1.O=C(Nc1cccc[n:10]1)c1ccccc1>>CN(C)c1ccc(/C=C/c2n[n:21]nn2-c2ccccc2)cc1.O=C(Nc1cccc[n+:10]1[H:20])c1ccccc1 10=20;20,21=21",
"C=CCSSC(CCO)=C(C)N(C=O)Cc1c[n:10]c(C)nc1N.CCCCCCCCCC[N+:21](CCO)(CC(O)CC)[H:20]>>C=CCSSC(CCO)=C(C)N(C=O)Cc1c[n+:10]([H:20])c(C)nc1N.CCCCCCCCCC[N:21](CCO)CC(O)CC 10=20;20,21=21",
"O=C1CC(c2ccccc2)NC(=O)[N:21]1[H:20].O=[N+]([O-])c1ccc(Cl)cc1C[NH2:10]>>O=C1CC(c2ccccc2)NC(=O)[N-:21]1.O=[N+]([O-])c1ccc(Cl)cc1C[NH2+:10][H:20] 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CCCC.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C=C(C)C(=O)OCC[NH+:10](CCCC)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC1(C)[C@H]2CC[C@@]1(C)[C@@H](O)[C@@H]2C(=O)[O-:10].CC[NH+](CC)CCNc1cc(C)[n+:21]([H:20])c(Nc2ccc(Cl)cc2)n1>>CC1(C)[C@H]2CC[C@@]1(C)[C@@H](O)[C@@H]2C(=O)[O:10][H:20].CC[NH+](CC)CCNc1cc(C)[n:21]c(Nc2ccc(Cl)cc2)n1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NC(C[NH3+])C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NC(C[NH3+])C[NH2+:10][H:20] 10=20;20,21=21",
"O=C(c1cc([N+](=O)[O-])ccc1O)[O-:10].O=C(c1ccccc1I)[O:21][H:20]>>O=C(c1cc([N+](=O)[O-])ccc1O)[O:10][H:20].O=C(c1ccccc1I)[O-:21] 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O-:10])c(C[NH3+])c2)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)COc1ccc(C(=O)c2ccc([O:10][H:20])c(C[NH3+])c2)cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCCCCCC[NH2:10].Cc1[nH][n+:21]([H:20])c(O)c1C(C)C>>CCCCCCCCCCCCCCCCCCCCCC[NH2+:10][H:20].Cc1[nH][n:21]c(O)c1C(C)C 10=20;20,21=21",
"COc1nc(C)cc([O-:10])[nH+]1.O=[N+]([O-])c1cccc2c[n+](CC[NH2+:21][H:20])ccc12>>COc1nc(C)cc([O:10][H:20])[nH+]1.O=[N+]([O-])c1cccc2c[n+](CC[NH2:21])ccc12 10=20;20,21=21",
"CO/C(C)=[O+:21]/[H:20].NC(=O)CCCCc1cccc[n:10]1>>COC(C)=[O:21].NC(=O)CCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"C[NH:10]CCc1ccccc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](CCc1ccccc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C[NH:10]CCCc1ccccc1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10](CCCc1ccccc1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC[NH:10]Cc1ccccc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC[NH+:10](Cc1ccccc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C=C(C)C(=O)[O:21][H:20].CC1(C)CC2CC[N:10]1C(=O)C2>>C=C(C)C(=O)[O-:21].CC1(C)CC2CC[N+:10]1([H:20])C(=O)C2 10=20;20,21=21",
"C[C@H]1CCCC[C@@H]1[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@H]1CCCC[C@@H]1[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOC(=O)[N-:10]c1ncnc2nc[nH]c12.C[NH+:21](CCCC(=O)[O-])[H:20]>>CCOC(=O)[N:10](c1ncnc2nc[nH]c12)[H:20].C[NH:21]CCCC(=O)[O-] 10=20;20,21=21",
"CCCC[NH2+]CC[NH2:10].Cc1ccc([NH3+])cc1-c1cc([NH2+:21][H:20])ccc1C>>CCCC[NH2+]CC[NH2+:10][H:20].Cc1ccc([NH3+])cc1-c1cc([NH2:21])ccc1C 10=20;20,21=21",
"CCC[NH+:21](Cc1ccc(C)cc1)[H:20].N[NH:10]CCO>>CCC[NH:21]Cc1ccc(C)cc1.N[NH+:10](CCO)[H:20] 10=20;20,21=21",
"CCCCCCCCCCCC[NH+:21](c1ccccc1)[H:20].Clc1cccc2ccc([O-:10])cc12>>CCCCCCCCCCCC[NH:21]c1ccccc1.Clc1cccc2ccc([O:10][H:20])cc12 10=20;20,21=21",
"Clc1ccc([NH2:10])c2ccccc12.O=[N+]([O-])[N-]c1nnn[n:21]1[H:20]>>Clc1ccc([NH2+:10][H:20])c2ccccc12.O=[N+]([O-])[N-]c1nnn[n-:21]1 10=20;20,21=21",
"Cc1ccc(CO[NH2:10])cc1.Cn1cnc2c1[N:21]([H:20])C=NS2(=O)=O>>Cc1ccc(CO[NH2+:10][H:20])cc1.Cn1cnc2c1[N-:21]C=NS2(=O)=O 10=20;20,21=21",
"O=C(Cc1nnnn1-c1ccccc1)[O:21][H:20].[O-]c1[nH+]c[n:10]cc1O>>O=C(Cc1nnnn1-c1ccccc1)[O-:21].[O-]c1[nH+]c[n+:10]([H:20])cc1O 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n+:21]1[H:20].O=C(CSc1ccccc1)[O-:10]>>COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n:21]1.O=C(CSc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"NS(=O)(=O)c1ccc([NH2+:21][H:20])cc1.O=C(Cc1ccc[n:10]c1)c1ccccc1>>NS(=O)(=O)c1ccc([NH2:21])cc1.O=C(Cc1ccc[n+:10]([H:20])c1)c1ccccc1 10=20;20,21=21",
"CN1C(=O)C(C)(C)[N-:10]C1=S.Cc1ccccc1/C=C/C(=O)[O:21][H:20]>>CN1C(=O)C(C)(C)[N:10]([H:20])C1=S.Cc1ccccc1/C=C/C(=O)[O-:21] 10=20;20,21=21",
"Cc1ccc(C(=O)N[O-:10])cc1.NC(=O)CN(CC[N+:21](CC(N)=O)(Cc1ccccc1O)[H:20])Cc1ccccc1O>>Cc1ccc(C(=O)N[O:10][H:20])cc1.NC(=O)CN(CC[N:21](CC(N)=O)Cc1ccccc1O)Cc1ccccc1O 10=20;20,21=21",
"NNC(=O)C(Cc1c[nH]c[n+:21]1[H:20])NC(=O)OCc1ccccc1.Nc1ncc2c(n1)nc(-c1ccccc1)[n-:10]2>>NNC(=O)C(Cc1c[nH]c[n:21]1)NC(=O)OCc1ccccc1.Nc1ncc2c(n1)nc(-c1ccccc1)[n:10]2[H:20] 10=20;20,21=21",
"NC(=O)C(CCC(=O)[O:21][H:20])NC=O.c1c[nH+]c([O-:10])cn1>>NC(=O)C(CCC(=O)[O-:21])NC=O.c1c[nH+]c([O:10][H:20])cn1 10=20;20,21=21",
"CC1(C)[C@@H]2CC[C@](C(=O)[O:21][H:20])(C2)[C@H]1O.O=C1N[C@@H](Cc2c[n:10]c[nH]2)C(=O)N[C@H]1Cc1c[nH+]c[nH]1>>CC1(C)[C@@H]2CC[C@](C(=O)[O-:21])(C2)[C@H]1O.O=C1N[C@@H](Cc2c[n+:10]([H:20])c[nH]2)C(=O)N[C@H]1Cc1c[nH+]c[nH]1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.NCC[NH:10]CCc1ccccc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.NCC[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
